### PR TITLE
[Merged by Bors] - feat(NumberField/CanonicalEmbedding/NormLeOne): add `expMapBasis`

### PR DESCRIPTION
**Pull request by xroblot**
We continue the study of the set `normLeOne`. In this PR, we define the map `expMapBasis` that we will use in a later PR to parametrize the set `normLeOne`.

This PR is part of the proof of the Analytic Class Number Formula.

---

- [x] depends on: #22561 
- [x] depends on: #22590 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean [hunk 1]
```diff
@@ -1204,6 +1204,10 @@ theorem normAtAllPlaces_mixedSpaceOfRealSpace {x : realSpace K} (hx : ∀ w, 0 
   ext
   rw [normAtAllPlaces_apply, normAtPlace_mixedSpaceOfRealSpace (hx _)]
 
+theorem normAtAllPlaces_mixedEmbedding (x : K) (w : InfinitePlace K) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:1207]: This can be `simp`.

File: Mathlib/NumberTheory/NumberField/Units/Basic.lean [hunk 2]
```diff
@@ -96,6 +96,10 @@ protected theorem norm [NumberField K] (x : (𝓞 K)ˣ) :
     |Algebra.norm ℚ (x : K)| = 1 := by
   rw [← RingOfIntegers.coe_norm, isUnit_iff_norm.mp x.isUnit]
 
+@[simp]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units/Basic.lean:99]: Do we really want to tag `simp` an inequality like this?

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean [hunk 3]
```diff
@@ -165,6 +231,175 @@ theorem logMap_expMap {x : realSpace K}
...
+/--
+A family of elements in the `realSpace K` formed of the image of the fundamental units
+and the vector `(mult w)_w`. This family is in fact a basis of `realSpace K`, see `completeBasis`.
+-/
+def completeFamily : InfinitePlace K → realSpace K :=
+  fun i ↦ by
+    classical
+    exact if hi : i = w₀ then fun w ↦ mult w else
+      expMap.symm
+        (normAtAllPlaces (mixedEmbedding K (fundSystem K (equivFinRank.symm ⟨i, hi⟩))))
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean:266]:
```suggestion
open scoped Classical in
variable (K) in
/--
A family of elements in the `realSpace K` formed of the image of the fundamental units
and the vector `(mult w)_w`. This family is in fact a basis of `realSpace K`, see `completeBasis`.
-/
def completeFamily : InfinitePlace K → realSpace K :=
  fun i ↦ if hi : i = w₀ then fun w ↦ mult w else expMap.symm <|
    normAtAllPlaces <| mixedEmbedding K <| fundSystem K <| equivFinRank.symm ⟨i, hi⟩
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/Units/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units/Basic.lean:99]: You're right. It's probably not a good idea.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:1207]: Actually, that makes the simp linter complain...

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean]: Thanks for the review!
